US03931235
To a stirred solution of 15.8 g. (0.100 mole) of 4-hydroxy-3-mercapto-6-methyl-2-pyrone in 100 ml. of pyridine was added 8.75 g. (0.0500 mole) of α,α'-dichloro-p-xylene in one portion at room temperature. The reaction mixture was allowed to stand at room temperature for 15 hours and then was poured into a mixture of ice and 200 ml. of concentrated hydrochloric acid. The mixture was extracted with methylene chloride, leaving the methylene chloride-insoluble, white solid product behind. This was collected on a filter and found to weigh 5.3 g., m.p. 224°C. (dec.). The extract was dried over anhydrous sodium sulfate, and the methylene chloride was removed by evaporation in vacuo. The remaining 4.1 g. of light yellow solid residue was triturated with benzene containing a little ethanol, leaving 1.7 g. more product as an insoluble white solid, m.p. 228°-229°C. (dec.). Recrystallization of the combined product fractions from nitromethane gave the pure α,α'-bis(4-hydroxy-6-methyl-2-oxo-3-pyranylthio)-p-xylene as very pale yellow crystals, m.p. 234°C. (dec.).

reactant | 4-hydroxy-3-mercapto-6-methyl-2-pyrone | 0.100 mole | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | α,α'-dichloro-p-xylene | 0.0500 mole | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | α,α'-bis(4-hydroxy-6-methyl-2-oxo-3-pyranylthio)-p-xylene | OC1=C(C(OC(=C1)C)=O)SCC1=CC=C(C=C1)CSC=1C(OC(=CC1O)C)=O | C20H18O6S2
